US07115602B2
4-tert-Butyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide
In analogy to the procedure for Example 36A, 200 mg (0.90 mmol) 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one, 180 mg (0.90 mmol) 4-tert-butylcyclohexanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopentyl-1,2,4-triazin-5(4H)-one | 0.90 mmol, 200 mg | NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C11H18N4O
reactant | 4-tert-butylcyclohexanecarbonyl chloride | 0.90 mmol, 180 mg | C(C)(C)(C)C1CCC(CC1)C(=O)Cl | C11H19ClO
product | 4-tert-Butyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclohexanecarboxamide | C(C)(C)(C)C1CCC(CC1)C(=O)NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C22H36N4O2
